US05071999
b) Ethyl N-(2-chloroallyl)-N-(2-oxoethyl)-carbamate
151 g (0.6 mol) of ethyl N-(2-chloroallyl)-N -(2,2-dimethoxyethyl)-carbamate are heated under reflux for 3 hours with 60 ml of formic acid in 1.2 1 of water. The mixture is saturated with sodium chloride, and the aqueous phase is separated off and extracted twice with 300 ml of methylene chloride each time. The organic phases are washed with saturated sodium hydrogen carbonate solution until neutral, dried over magnesium sulphate and concentrated, and the residue is distilled.

reactant | ethyl N-(2-chloroallyl)-N -(2,2-dimethoxyethyl)-carbamate | 0.6 mol, 151 g | ClC(CN(C(OCC)=O)CC(OC)OC)=C | C10H18ClNO4
reactant | formic acid | 60 ml | C(=O)O | CH2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
product | Ethyl N-(2-chloroallyl)-N-(2-oxoethyl)-carbamate | ClC(CN(C(OCC)=O)CC=O)=C | C8H12ClNO3
